US06998415B2
Step 1. Preparation of 4,5-diphenyloxazolone.
Benzoin (31.8 g, 0.15 mol) and urethane (42.79 g, 0.45 mol) were heated to reflux for 3.0 hours. The hot mixture was poured into water (150 mL). Acetone (150 mL) was added and heat was applied until the mixture dissolved. The solution was cooled and filtered, producing a white solid which was used in the next step without further purification.

reactant | Benzoin | 0.15 mol, 31.8 g | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | urethane | 0.45 mol, 42.79 g | NC(=O)OCC | C3H7NO2
reactant | water | 150 mL | O | H2O
solvent | Acetone | 150 mL | CC(=O)C | C3H6O
product | 4,5-diphenyloxazolone | C1(=CC=CC=C1)C=1NC(OC1C1=CC=CC=C1)=O | C15H11NO2
